US06982348B2
N-{(1RS,2SR)-2-hydroxy-2-[4-(pyridin-2-yloxy)phenyl]-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide
To a solution of tert-butyl (1RS,2SR)-2-hydroxy-2-[4-(pyridin-2-yloxy)phenyl]-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethylcarbamate (500 mg, 0.93 mmol) was added trifluoroacetic acid (10 ml), and the mixture was stirred at 0° C. for 10 min. The reaction solution was neutralized with saturated aqueous sodium hydrogen carbonate, and extracted with ethyl acetate, (30 ml×2). The extract was washed with saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. To a solution of the residue in acetonitrile (20 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (175 mg, 0.93 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (268 mg, 1.40 mmol) and 1-hydroxybenzotriazole hydrate (143 mg, 0.93 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (150 ml), and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-1:1). Recrystallization from ethyl acetate-hexane gave the objective substance (181 mg, 32%).

reactant | tert-butyl (1RS,2SR)-2-hydroxy-2-[4-(pyridin-2-yloxy)phenyl]-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethylcarbamate | 0.93 mmol, 500 mg | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(OC(C)(C)C)=O)C1=CC=C(C=C1)OC1=NC=CC=C1 | C27H28F4N2O5
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 0.93 mmol, 175 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.40 mmol, 268 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.93 mmol, 143 mg | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 150 ml | O | H2O
product | N-{(1RS,2SR)-2-hydroxy-2-[4-(pyridin-2-yloxy)phenyl]-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C2=CC=C(C=C2)OC2=NC=CC=C2 | C34H30F4N2O4
